US09125901B2
Ammonium formate (960 mg, 15.0 mmol) is added to a solution of N-isopropyl-2-nitroaniline (550 mg, 3.03 mmol) in methanol. This may be followed by a catalytic amount of palladium on carbon (5%). The mixture may be refluxed overnight, cooled to room temperature and filtered. The filtrate may be concentrated by any applicable and the residue may be purified, for example by Biotage column chromatography to give N1-isopropylbenzene-1,2-diamine (398 mg)

reactant | Ammonium formate | 15.0 mmol, 960 mg | C(=O)[O-].[NH4+]
reactant | N-isopropyl-2-nitroaniline | 3.03 mmol, 550 mg | C(C)(C)NC1=C(C=CC=C1)[N+](=O)[O-] | C9H12N2O2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | N1-isopropylbenzene-1,2-diamine | 398 mg | C(C)(C)NC=1C(=CC=CC1)N | C9H14N2
